Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ritalin
 
Attending: ___
 
Chief Complaint:
foreign body
 
Major Surgical or Invasive Procedure:
small bowel enteroscopy

 
History of Present Illness:
___ is a ___ w/ autism & ___ who presents after
ingesting a magnet. 

History difficult to obtain from patient due to severe autism.
Per chart review and history from family, patient was at his day
center yesterday when he suddenly developed several episodes of
non-bloody emesis. He went home and to his PCP, who referred him
for imaging; CT showed a 4cm foreign object in his stomach, so 
he
was transferred here for further management. Here, imaging 
showed
that the objects still in his stomach. 

He was evaluated by ACS who deferred to GI; GI performed an EGD
and retrieved two small clumps of magnets in the stomach, but an
interval KUB showed a small bowel magnet that was unable to be
retrieved. They recommended moviprep & IV PPI, as well as serial
KUb q6-12 hours to trend for resolution. Currently the patient
seems mainly bothered by his IV; he gets somewhat agitated 
during
the exam. Per his family, Ativan IV helps in the acute setting
for agitation and aggression.

In the ED, he received 3 doses of IV lorazepam, 1 dose of PO
risperidone, IV Zofran, IV pantoprazole.

ROS: Pertinent positives and negatives as noted in the HPI. 
10-point review of systems were negative except as reviewed in
the HPI. 

 
Past Medical History:
autism
___
ADHD
Tourette's
 
Social History:
___
Family History:
DM2
HTN
 
Physical Exam:
ADMISSION EXAM
VITALS: Afebrile and vital signs stable 
98.8, 60, 110/61, 16, 98% RA
GENERAL: Young man lying awake and in NAD, shows me his IV and
tries to grab my arm.
EYES: Anicteric, PERRLA, EOMI
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx: without visible lesion, erythema or exudate
CV: RRR, no murmurs/rubs/gallops. 
RESP: Lungs CTAB, no crackles/rhonchi/wheezes, breathing
non-labored
GI: Abdomen soft, ND, NTTP, +BS, no HSM
GU: No suprapubic TTP
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
PSYCH: non-verbal, agitated

==========
DISCHARGE EXAM
AVSS
NAD, calm and happy because he can eat
anicteric
MMM
RRR
CTAB
sntnd
wwp, neg edema
no rash
non-verbal except occasionally mumbles words, MAEE, walking with 
baseline abnormal posture stooped 

 
Pertinent Results:
___ 11:00PM BLOOD WBC-9.2 RBC-4.71 Hgb-14.6 Hct-42.1 MCV-89 
MCH-31.0 MCHC-34.7 RDW-12.0 RDWSD-39.1 Plt ___
___ 11:00PM BLOOD Neuts-70.1 ___ Monos-8.3 Eos-0.8* 
Baso-0.4 Im ___ AbsNeut-6.46* AbsLymp-1.84 AbsMono-0.77 
AbsEos-0.07 AbsBaso-0.04
___ 11:00PM BLOOD Glucose-93 UreaN-10 Creat-0.8 Na-140 
K-3.8 Cl-107 HCO3-21* AnGap-12
___ 05:00AM BLOOD Phos-3.3 Mg-2.4
___ 05:00AM BLOOD WBC-7.5 RBC-4.61 Hgb-14.1 Hct-41.4 MCV-90 
MCH-30.6 MCHC-34.1 RDW-11.9 RDWSD-38.4 Plt ___
___ 05:00AM BLOOD Glucose-95 UreaN-12 Creat-0.9 Na-145 
K-4.0 Cl-108 HCO3-24 AnGap-13

Small bowel enteroscopy: normal mucosa in whole esophagus. In 
the body near the lesser curvature, a few magnets were seen 
embedded into the stomach. Another 2 magnets were seen past the 
incisura in the antrum being pulled towards the magnets seen in 
the body. A 15mm snare was used to pull and retrieve magnets at 
both of these locations. 1cm ulcers were seen in teh body and 
antrum after removal of magnets. No perforation was seen on 
careful examination and no significant bleeding was noted. No 
other foreign body was noted in the stomach. Normal mucosa in 
the whole examined duodenum. Normal proximal jejunum. No foreign 
objects seen. Foreign body seen on KUB was not visualized on 
enteroscopy. Recommend trial of moviprep and repeat KUB in 6 
hours. PPI IV BID.

==========
PERTINENT INTERVAL RESULTS

IMPRESSION:
 
 
1. Radiopaque foreign body (magnet-as per the history) 
projecting over the
lower midline pelvis at midline, is either within distal small 
bowel or the
sigmoid colon.  Compared to the prior study, the metallic object 
has moved
distally.  There is no bowel obstruction.
2. There are no new foreign objects.
 
IMPRESSION:
 
 
1. Radiopaque foreign body (magnet as per the history) 
projecting in the lower
midline pelvis, likely within the small bowel or rectosigmoid.  
Lateral
radiograph may help to distinguish between these.

IMPRESSION:
 
 
1. Radiodense metallic foreign object in the rectum when 
correlated with AP
radiograph from 1 hour prior.  No new foreign objects.  A repeat 
radiograph
can be performed to ensure passage of the foreign object if 
clinically
warranted.
 
 
Brief Hospital Course:
___ w autism and ___ who presents after magnet ingestions. A 
few were removed from upper GI tract on push enteroscopy but 3 
magnets were beyond reach. Underwent moviprep and maintained NPO 
to allow safe passage of magnets. Once magnets were beyond the 
point of the ileocecal valve, per judgement of surgery and GI 
patient was low risk. Magnets made it to rectum and patient was 
therefore allowed to start PO and was discharged home after 
tolerating a meal. He was very agitated from not eating and 
required several doses of IM lorazepam to calm down (as he 
refused PIV). Mother and group home staff were very helpful in 
his management. He was started on BID PPI given ulceration noted 
in stomach. We continued his home risperidone, benztropine, 
valproic acid. He was advised not to eat magnets or other 
foreign objects again.

>30 minutes spent on patient care and coordination on day of 
discharge.

=======
TRANSITIONAL ISSUES
- patient started on BID PPI given ulcerations; will f/u with GI 
to consider need for repeat EGD and when to reduce dose of PPI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE 2 mg PO DAILY 
2. RisperiDONE 4 mg PO QHS 
3. Benztropine Mesylate 0.5 mg PO BID 
4. Baclofen 10 mg PO BID 
5. Divalproex (DELayed Release) 125 mg PO BID 
6. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Baclofen 10 mg PO BID  
4.  Benztropine Mesylate 0.5 mg PO BID  
5.  Divalproex (DELayed Release) 125 mg PO BID  
6.  RisperiDONE 2 mg PO DAILY  
7.  RisperiDONE 4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ingested object
peptic ulcer

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you.
You were admitted because you swallowed magnets. Some of these 
were removed by endoscopy and the remaining parts have been 
moved along and are almost ready to be defecated out.
You had irritation in your stomach from the magnets so should 
start acid reducing medications and follow up with GI as an 
outpatient. 
We recommend you not swallow anymore objects, especially 
magnets, as this is dangerous.
We wish you the best!
 
Followup Instructions:
___